US06693123B2
To a solution of 4-(3-pyridyloxymethyl)-2-phenylbenzoic acid methyl ester (3.4 g, 10.6 mmol), prepared as in Example 228C, in methanol (30 mL) was added aqueous 4N sodium hydroxide and the reaction mixture was heated at reflux for 6 hours. The methanol was distilled of in vacuo and the residue was taken up in water. The aqueous solution was taken to pH 4 with HCl and the resulting precipitate was filtered off and dried to give 4-(3-pyridyloxymethyl)-2-phenylbenzoic acid (3.2 g).

reactant | 4-(3-pyridyloxymethyl)-2-phenylbenzoic acid methyl ester | 10.6 mmol, 3.4 g | COC(C1=C(C=C(C=C1)COC=1C=NC=CC1)C1=CC=CC=C1)=O | C20H17NO3
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 4-(3-pyridyloxymethyl)-2-phenylbenzoic acid | 3.2 g | N1=CC(=CC=C1)OCC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C19H15NO3
